US04110450
Sodium methoxide (162 g) is added to a solution of mucochloric acid (169 g) and formamidine acetate (208 g) in methanol (3 liters) over the course of 20 minutes, and the reaction mixture is heated for 1 hour at 35°-40° C, and then for 11/2 hours under reflux. The solvent is removed and water (500 cc) is added to the residue. The aqueous mixture is extracted with ethyl acetate (2 liters). The aqueous phase is brought to pH 1 by the addition of concentrated hydrochloric acid, and the aqueous phase is extracted with ethyl acetate (5 liters). The organic phase is dried over anhydrous magnesium sulphate, filtered and then concentrated to dryness. The residue is washed with diethyl ether (300 cc) and then with diisopropyl ether (600 cc). 4-Carboxy-5-chloropyrimidine (55.6 g), melting at 190° C, is obtained.

reactant | Sodium methoxide | 162 g | C[O-].[Na+]
reactant | mucochloric acid | 169 g | C(/C(/Cl)=C(/Cl)\C=O)(=O)O | C4H2Cl2O3
reactant | formamidine acetate | 208 g | C(C)(=O)O.C(=N)N
solvent | methanol | 3 liters | CO | CH4O
product | 4-Carboxy-5-chloropyrimidine | 55.6 g | C(=O)(O)C1=NC=NC=C1Cl | C5H3ClN2O2
